US08383657B2
6-bromo-1,2-difluoronaphthalene
Zinc (341 mg, 5.22 mmol) was added to a stirred mixture of 6-bromo-1,1,2,2-tetrafluoro-1,2-dihydronaphthalene (730 mg, 2.60 mmol) in tetrahydrofuran and concentrated ammonium hydroxide (4 mL) at 0° C. The mixture was allowed to warm slowly to room temperature. After 6 hours the reaction was diluted with 35 mL of dichloromethane and extracted. The organic layer was washed with water (2×30 mL) dried and concentrated. The residue was purified by chromatography on silica gel eluting with pentane:hexane (1:1) to provide the title compound.

reactant | 6-bromo-1,1,2,2-tetrafluoro-1,2-dihydronaphthalene | 2.60 mmol, 730 mg | BrC=1C=C2C=CC(C(C2=CC1)(F)F)(F)F | C10H5BrF4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ammonium hydroxide | 4 mL | [OH-].[NH4+]
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
catalyst | Zinc | 5.22 mmol, 341 mg | [Zn] | Zn
product | 6-bromo-1,2-difluoronaphthalene | BrC=1C=C2C=CC(=C(C2=CC1)F)F | C10H5BrF2
